US04349674
2-[(Butylamino)(butylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride
2-Chloro-3-quinoxalinecarboxylic acid ethyl ester (7.10 g., 0.03 mole) was dissolved in 125 ml. of acetone treated with Norit and filtered. The filtrate was added to 5.650 g. (0.03 mole) of 1,3-di-n-butylthiourea in 100 ml. of acetone. The solution was stirred at reflux under a nitrogen atmosphere for 6 hours, allowed to cool to room temperature, and stirred an additional 17 hours. The red solution was treated with Norit, filtered, and concentrated to a volume of 100 ml. The yellow solid that crystallized out was collected by filtration, washed and dried to give the 6.05 g. (47.5% yield) of product, m.p. 138°-139° C. (dec.).

reactant | 2-Chloro-3-quinoxalinecarboxylic acid ethyl ester | 0.03 mole, 7.10 g | C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)Cl | C11H9ClN2O2
reactant | Norit | C | CH4
reactant | 1,3-di-n-butylthiourea | 0.03 mole | C(CCC)NC(=S)NCCCC | C9H20N2S
solvent | acetone | CC(=O)C | C3H6O
product | 2-[(Butylamino)(butylimino)methylthio]-3-quinoxalinecarboxylic acid ethyl ester, hydrochloride | 47.5% yield | Cl.C(C)OC(=O)C=1C(=NC2=CC=CC=C2N1)SC(=NCCCC)NCCCC | InChI=1S/C20H28N4O2S.ClH/c1-4-7-13-21-20(22-14-8-5-2)27-18-17(19(25)26-6-3)23-15-11-9-10-12-16(15)24-18;/h9-12H,4-8,13-14H2,1-3H3,(H,21,22);1H
